US09403810B2
Step 5: 4-Amino-2-isopropyl-1,5-dimethyl-1H-pyrazol-3(2H)-one
To a solution of (9H-fluoren-9-yl)methyl (2-isopropyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate (2.047 g, 5.23 mmol) in DMF (30 mL) was added piperidine (2.59 mL, 26.1 mmol) at room temperature. Upon completion of addition the reaction mixture was added to water (30 mL). The resulting suspension was diluted with water (100 mL) and extracted with EtOAc. The combined organics were extracted with 2M HCl (aq) and the acidic aqueous extracts were neutralised with a saturated sodium bicarbonate solution and loaded onto a C18 cartridge. The column was eluted with water and the collected aqueous was slurried with SCX-2 and filtered. The resin was rinsed with MeOH and 7M ammonia in MeOH. The MeOH and aqueous filtrate solvent was removed under reduced pressure. MeOH (150 mL) was added to the resulting mixture, sonicated, filtered and the filtrate was concentrated under reduced pressure. EtOH was added to the resulting mixture and it was filtered. The filtrate was concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography using a gradient of 0-10% MeOH in DCM afforded crude material. The crude material in MeOH was slurried with SCX-2 (30 g). The suspension was filtered and washed with MeOH. The resin was then eluted with 7M NH3 in MeOH. The methanolic ammonia was concentrated under reduced pressure to afford crude material. The crude material was then adsorbed onto silica and purification by chromatography using a gradient of 0-10% MeOH in DCM afforded the title compound;

reactant | (9H-fluoren-9-yl)methyl (2-isopropyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | 5.23 mmol, 2.047 g | C(C)(C)N1N(C(=C(C1=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C)C | C23H25N3O3
reactant | piperidine | 26.1 mmol, 2.59 mL | N1CCCCC1 | C5H11N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | MeOH | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 4-Amino-2-isopropyl-1,5-dimethyl-1H-pyrazol-3(2H)-one | NC=1C(N(N(C1C)C)C(C)C)=O | C8H15N3O
